data/mechanisms/records/IMS8-EQ8.50.json
{"mechanism_id": "IMS8-EQ8.50", "species": [{"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[CH2:2]=[O+:1][CH2:5][CH2:4][CH2:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "distonic_oxonium_resonance_ion", "mapped_smiles": "[CH2:5][O+:1]=[CH2:2]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["ethylene_neutral", "distonic_oxonium_resonance_ion"]}], "steps": [{"step_id": "step_alpha_ethylene_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_ethylene", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ethylene_loss", "support_type": "textbook_proposed", "locator": {"page": 178, "equation": "8.50", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.7, "curator_note": "Lower branch off the ring-opened distonic ion, labelled 'alpha': a genuine radical-site alpha-cleavage. The tail radical forms a new C=C pi bond (expelling neutral ethylene, C2H4, for Y=O) and the sigma bond beta to the radical breaks, leaving a radical on the carbon adjacent to Y. The product is the resonance-stabilised distonic oxonium/methylene ion .CH2-Y+=CH2 <-> CH2=Y+-CH2. (m/z 44 for Y=O). Book draws 0 electron-pushing fishhooks on this branch (only the 'alpha'-labelled reaction arrow); the two structures the book shows for the product ARE the two resonance forms, connected by a double-headed resonance arrow (eq 8.50). RESONANCE CHOICE (convention C): the mapped_smiles encodes the left/form-1 localisation .CH2(map5)-O+=CH2(map2); the right/form-2 CH2=O+-CH2.(map5) is the drawn resonance partner. The 3 fishhooks are curator-supplied for balance and reproduce standard radical-site alpha-cleavage exactly."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 72.057, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_distonic_oxonium", "species_id": "distonic_oxonium_resonance_ion", "step_id": "step_alpha_ethylene_loss", "observed_mz": 44.0257, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
